Circuito L2vs0

.options savecurrents

Vx 6 8 8.698484122

R1 1 2 1.00728346276k
R2 3 2 2.04549270045k
R3 2 5 3.11561757085k
R4 5 0 4.14110264539k
R5 5 6 3.10979384595k
R6 0 7 2.04335144349k
R7 ne 8 1.04000102286k

Vaux 7 ne 0.0

Hd 5 8 Vaux 8.01915500658k

Gb 6 3 (2,5) 7.15958105841m

Vs 1 0 0

.model linearcircuit NPN
.control

op

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end